US07612114B2
Pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester
To a solution of 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol (500 mg) in tetrahydrofuran (15 ml) was added 60% sodium hydride (75 mg) under a nitrogen atmosphere, the solution was stirred for 30 minutes at room temperature, then 2,2-dimethyl-1-(2-thioxothiazolidin-3-yl)propan-1-one (380 mg) was added thereto on an ice bath followed by stirring for 25 minutes. A saturated aqueous solution of ammonium chloride was added thereto, the solution was stirred, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (640 mg).

reactant | 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 500 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O | C19H23NO2
reactant | sodium hydride | 75 mg | [H-].[Na+]
reactant | 2,2-dimethyl-1-(2-thioxothiazolidin-3-yl)propan-1-one | 380 mg | CC(C(=O)N1C(SCC1)=S)(C)C | C8H13NOS2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 640 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
